US07008950B1
Sodium hydride (60% liquid paraffin dispersion, 2.70 g, 67.8 mmol) was added to a solution of 1-phenylpiperazine (10.0 g, 61.6 mmol) in N,N-dimethylformamide (80 mL) at 0° C., and the mixture was stirred for 10 minutes at the same temperature. To the reaction mixture was added Iodomethane (8.74 g, 67.8 mmol), and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into water (80 mL), and extracted twice with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from hexane-isopropyl ether to obtain 1-methyl-4-phenylpiperazine (7.40 g). Bromine (7.00 g, 43.8 mmol) was added to a solution of this compound in ethanol (80 mL) at 0° C., and the mixture was stirred for 1 hour at room temperature. Water (80 mL) was poured into the reaction mixture, which was then extracted twice with ethyl acetate. The organic layer was combined, washed with an aqueous saturated sodium hydrogencarbonate and water, then dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to obtain the title compound (8.1 g, yield 52%).

reactant | Sodium hydride | 67.8 mmol, 2.70 g | [H-].[Na+]
reactant | 1-phenylpiperazine | 61.6 mmol, 10.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | Iodomethane | 67.8 mmol, 8.74 g | IC | CH3I
reactant | water | 80 mL | O | H2O
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 1-methyl-4-phenylpiperazine | 7.40 g | CN1CCN(CC1)C1=CC=CC=C1 | C11H16N2
